US07393868B2
Propane-2-sulfonic acid {2-[3-cyano-4′-(1H-tetrazol-5-yl)-biphenyl-4-yl]-thiophen-3-yl}-amide
Add NaN3 (4.5 mmol) and a 1M solution of SiCl4 (1.5 mmol) in DCM to a solution of 2-Cyano-4′-[3-(propane-2-sulfonylamino)-thiophen-2-yl]-biphenyl-4-carboxylic acid amide (1.5 mmol) in acetonitrile (50 mL). Stir 15 h at 70° C. Concentrate to dryness under reduced pressure. Dissolve resultant residue in 20 ml of NH4Cl and extract with DCM and the aqueous with EtOAc. Concentrate all organic layers to dryness. Purify by HPLC to provide the title compound. MS (ES−):449(M−1).

reactant | NaN3 | 4.5 mmol | [N-]=[N+]=[N-].[Na+]
reactant | SiCl4 | 1.5 mmol | [Si](Cl)(Cl)(Cl)Cl | Cl4Si
reactant | 2-Cyano-4′-[3-(propane-2-sulfonylamino)-thiophen-2-yl]-biphenyl-4-carboxylic acid amide | 1.5 mmol | C(#N)C1=C(C=CC(=C1)C(=O)N)C1=CC=C(C=C1)C=1SC=CC1NS(=O)(=O)C(C)C | C21H19N3O3S2
reactant | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | Propane-2-sulfonic acid {2-[3-cyano-4′-(1H-tetrazol-5-yl)-biphenyl-4-yl]-thiophen-3-yl}-amide | C(#N)C=1C=C(C=CC1C=1SC=CC1NS(=O)(=O)C(C)C)C1=CC=C(C=C1)C1=NN=NN1 | C21H18N6O2S2
